US04443448
A solution of 52 grams of 3-(4'-fluorophenyl)-6-fluoro-1-indanol in 250 milliliters of dry toluene was cooled in ice water, and a solution of 21 milliliters of thionylchloride in 21 milliliters of toluene was added dropwise keeping the reaction temperature below 10 degrees Centigrade. The reaction mixture was stirred at room temperature for 30 minutes and then slowly heated to 60 degrees Centigrade in a water-bath and kept at this temperature for one hour. The reaction mixture was then treated with ice-water, extracted with an aqueous sodium carbonate solution and dried over anhydrous magnesium sulfate. After filtration and evaporation in vacuo there was obtained 55 grams of crude 1-chloro-3-(4'-fluorophenyl)-6-fluoroindane, which was used in the next step without further purification.

reactant | 3-(4'-fluorophenyl)-6-fluoro-1-indanol | 52 grams | FC1=CC=C(C=C1)C1CC(C2=CC(=CC=C12)F)O | C15H12F2O
reactant | thionylchloride | 21 milliliters | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 250 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 21 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-3-(4'-fluorophenyl)-6-fluoroindane | 55 grams | ClC1CC(C2=CC=C(C=C12)F)C1=CC=C(C=C1)F | C15H11ClF2
